US05990133
1-[3-(4-Isoquinolyl)phenylcarbamoyl]-5-methoxy-6-trifluoromethyl indoline
The title compound was prepared by the method of Example 23, from 4-(3-aminophenyl)isoquinoline (0.41 g, 1.9 mmol), 1,1'-carbonyldiimidazole (0.33 g, 2 mmol) and 5-methoxy-6-trifluoromethylindoline (D11) (0.41 g, 1.9 mmol). Crude product was chromatographed on silica gel eluted with 5% methanol/dichloromethane and eluted material was recrystallised from dichoromethane to give the title compound (0.22 g, 25%), m.p. 211-5° C.

reactant | 4-(3-aminophenyl)isoquinoline | 1.9 mmol, 0.41 g | NC=1C=C(C=CC1)C1=CN=CC2=CC=CC=C12 | C15H12N2
reactant | 1,1'-carbonyldiimidazole | 2 mmol, 0.33 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-methoxy-6-trifluoromethylindoline | 1.9 mmol, 0.41 g | COC=1C=C2CCNC2=CC1C(F)(F)F | C10H10F3NO
product | 1-[3-(4-Isoquinolyl)phenylcarbamoyl]-5-methoxy-6-trifluoromethyl indoline | 0.22 g, 25% | C1=NC=C(C2=CC=CC=C12)C=1C=C(C=CC1)NC(=O)N1CCC2=CC(=C(C=C12)C(F)(F)F)OC | C26H20F3N3O2
